US05134128
4-(12-t-butyldimethylsiloxy-1-hydroxydodecyl)-2-trimethylsilylfuran
To a stirred suspension of magnesium turnings (0.142 g, 5.9 mmol) in tetrahydrofuran (1 ml) at room temperature under nitrogen was added a solution of 1-bromo-11-t-butyldimethylsiloxyundecane (1.06 g, 2.9 mmol) in tetrahydrofuran (1.5 ml). This mixture was heated to reflux and stirred for 1 hour, then cooled to 0° and diluted with tetrahydrofuran (3 ml). Trimethylsilyl-3-furanaldehyde (0.491 g, 2.9 mmol) was added dropwise in 2 ml of tetrahydrofuran. The solution was stirred for 1 hour at 0°, 4.5 hours at room temperature, quenched with saturated ammonium chloride solution and poured into ethyl ether. The organic portion was washed twice with water, once with saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated to give a yellow liquid. The alcohol (Rf =0.33, 20% ethyl ether/hexane) was purified by flash chromatography (silica, 10-15% ethyl ether/petroleum ether) to give a pale oil.

reactant | magnesium | 5.9 mmol, 0.142 g | [Mg] | Mg
reactant | 1-bromo-11-t-butyldimethylsiloxyundecane | 2.9 mmol, 1.06 g | BrCCCCCCCCCCCO[Si](C)(C)C(C)(C)C | C17H37BrOSi
reactant | Trimethylsilyl-3-furanaldehyde | 2.9 mmol, 0.491 g | C[Si](C)(C)C=1OC=CC1C=O | C8H12O2Si
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-(12-t-butyldimethylsiloxy-1-hydroxydodecyl)-2-trimethylsilylfuran | O([Si](C)(C)C(C)(C)C)CCCCCCCCCCCC(O)C=1C=C(OC1)[Si](C)(C)C | C25H50O3Si2
